US07550473B2
To a solution of 10.0 g (59 mmol) (2-chlorophenyl)acetic acid in MeOH (10 mL) was added 9.6 mL (88 mmol) of trimethyl orthoformate and 0.32 mL (6.0 mmol) of H2SO4. The reaction was stirred at room temperature for 4 h then diluted with EtOAc and washed with H2O followed by a saturated aqueous solution of NaHCO3. The organic phase was dried over anhydrous Na2SO4 and concentrated under reduced pressure to provide 10.6 g (97%) of (2-chlorophenyl)-acetic acid methyl ester as a clear oil. The crude reaction product was not purified but used immediately.

reactant | (2-chlorophenyl)acetic acid | 59 mmol, 10.0 g | ClC1=C(C=CC=C1)CC(=O)O | C8H7ClO2
reactant | trimethyl orthoformate | 88 mmol, 9.6 mL | C(OC)(OC)OC | C4H10O3
reactant | H2SO4 | 6.0 mmol, 0.32 mL | OS(=O)(=O)O | H2O4S
solvent | MeOH | 10 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2-chlorophenyl)-acetic acid methyl ester | 10.6 g, 97% | COC(CC1=C(C=CC=C1)Cl)=O | C9H9ClO2
